US08212032B2
Step 1: 4-(bromomethyl)-3-chlorobenzonitrile
A mixture of 3-chloro-4-methylbenzonitrile (7.5 g, 50 mmol, 1.0 equiv), N-bromosuccinimide (9.14 g, 52 mmol, 1.1 equiv), and azobisisobutyronitrile (AIBN, 0.82 g, 5 mmol, 0.1 equiv) in carbon tetrachloride was heated to reflux temperature for 25 h. Water (50 mL) was added, and the product was extracted with CH2Cl2. The organic layers were washed with water, dried with MgSO4, and evaporated to provide 11.3 g of the title compound. This material was used in the next step without purification.

reactant | 3-chloro-4-methylbenzonitrile | 50 mmol, 7.5 g, 1.0 equiv | ClC=1C=C(C#N)C=CC1C | C8H6ClN
reactant | N-bromosuccinimide | 52 mmol, 9.14 g, 1.1 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 5 mmol, 0.82 g, 0.1 equiv | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | Water | 50 mL | O | H2O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(bromomethyl)-3-chlorobenzonitrile | 11.3 g | BrCC1=C(C=C(C#N)C=C1)Cl | C8H5BrClN
